US07491684B2
Preparation of 1-Phenyl-4-Methyl-4-Hepten-3-one
To a dry 2 liter multi-neck round bottom flask fitted with an air stirrer, nitrogen inlet condenser and an addition funnel 168 g of 65% 1-Phenyl-4-Methyl-4-Hepten-3-ol, 51 g of 98% Aluminum Isopropoxide, (obtained from the Acros Organics) and 200 g of Acetone and 200 g of Toluene were added and stirred. The reaction mixture was slowly heated at reflux to 85° C. The samples were collected every our when the temperature of the reaction mixture was between 70° C. and 80° C. The NMR spectrum of the 1-Phenyl-4-Methyl-4-Hepten-3-one is as follows: 1.0 ppm (t, 3H); 1.8 ppm (s, 3H); 2.2 ppm (m, 2H); 2.9-3.0 ppm (m, 2H); 6.6 ppm (t, 1H) 7.2 ppm (m, 3H); 7.28 ppm (s,1H), 7.3 ppm (s, 1H).

reactant | 1-Phenyl-4-Methyl-4-Hepten-3-ol | 168 g | C1(=CC=CC=C1)CCC(C(=CCC)C)O | C14H20O
reactant | Aluminum Isopropoxide | 51 g | CC([O-])C.[Al+3].CC([O-])C.CC([O-])C
reactant | Acetone | 200 g | CC(=O)C | C3H6O
solvent | Toluene | 200 g | C1(=CC=CC=C1)C | C7H8
product | 1-Phenyl-4-Methyl-4-Hepten-3-one | C1(=CC=CC=C1)CCC(C(=CCC)C)=O | C14H18O
